US08871756B2
3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]propanoic acid
To a solution of ethyl 3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]propanoate (100 mg, 0.22 mmol) in methanol (2 mL) was added an aqueous solution of lithium hydroxide (20.6 mg in 2 mL of water) and the resulting mixture was stirred at room temperature for 4 hours. The reacting mixture was acidified to pH 4 with an aqueous solution of hydrochloric acid (5 N), and then extracted with ethyl acetate (10 mL×3). The organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 1-10% methanol in dichlorometane) to afford 50 mg of the product as a white solid. MS (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.08 (brs, 2 H), 7.94 (d, J=7.58 Hz, 1 H), 7.80 (brs, 1 H), 7.72 (t, J=7.07 Hz, 1 H), 7.57 (d, J=7.33 Hz, 2 H), 7.37 (brs, 1 H), 5.38 (m, 2 H), 4.56 (brs, 2 H), 3.94-3.69 (m, 2 H), 3.26 (brs, 2 H), 2.81-2.64 (m, 4 H), 1.22 (t, J=7.58 Hz, 3 H).

reactant | ethyl 3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]propanoate | 0.22 mmol, 100 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)CCC(=O)OCC)CC)=O | C25H28N2O4S
reactant | lithium hydroxide | 2 mL, 20.6 mg | [OH-].[Li+]
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]propanoic acid | 50 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)CCC(=O)O)CC)=O | C23H24N2O4S
